US03960892
To a stirred hot solution of 4.23 g. (23.5 mM) of 4-methoxyphthalaldehydic acid and 3.13 g. (23.5 mM) of rhodanine in 16.5 ml. of acetic acid is added 6.33 g. (77.2 mM) of anhydrous sodium acetate. The resulting hot solution is refluxed for 0.5 hour, whereupon a solid yellow mass forms. The mixture is cooled, poured into water, to yield 5-(2-carboxy-5-methoxybenzylidene) rhodanine.

reactant | 4-methoxyphthalaldehydic acid | 23.5 mM | COC=1C=C(C(C(=O)O)=CC1)C=O | C9H8O4
reactant | rhodanine | 23.5 mM | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium acetate | 77.2 mM | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | 5-(2-carboxy-5-methoxybenzylidene) rhodanine | C(=O)(O)C1=C(C=C2C(NC(S2)=S)=O)C=C(C=C1)OC | C12H9NO4S2
